US06596772B1
3,6-Bis-(morpholin-4-ylmethyl)-2,5-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzene (23).
To a solution of 2,5-bis-(morpholinomethyl)-hydroquinone (100 mg, 0.324 mmol) in THF was added sodium hydride (26 mg of 60% dispersion in mineral oil) followed by 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (188 mg, 0.648 mmol). The mixture was stirred at room temperature for overnight. The reaction was extracted with ethyl acetate, the organic layer was washed with water and brine, dried, concentrated and purified to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.81 (d, J=2.2 Hz, 2H), 8.23 (m, 2H), 7.60 (s, 2H), 7.27 (m, 2H), 3.4 (m, 4H, 2×CH2), 3.06 (m, 8H, 4×CH2), 2.18 (m, 8H, 4×CH2). MS 815 [M++1].

reactant | 2,5-bis-(morpholinomethyl)-hydroquinone | 0.324 mmol, 100 mg | O1CCN(CC1)CC1=C(O)C=C(C(=C1)O)CN1CCOCC1 | C16H24N2O4
reactant | sodium hydride | 26 mg | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 0.648 mmol, 188 mg | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
solvent | THF | C1CCOC1 | C4H8O
product | 3,6-Bis-(morpholin-4-ylmethyl)-2,5-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzene | N1(CCOCC1)CC=1C(=CC(=C(C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])CN1CCOCC1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C30H28F6N4O12S2
